US06818652B2
A solution of 4-[3-(4,4-dimethyl-chroman-7-yl)-oct-1-enyl]-benzoic acid methyl ester (0.1 g, 0.25 mmole) in 25 mL of a 4:1 THF/methanol mixture was treated with a solution of 0.1 g of lithium hydroxide monohydrate in 5 mL of water. The reaction mixture was stirred at 40° C. for 2 hours, concentrated in vacuo and the pH adjusted to 3-4 with 1N HCl solution. The mixture was extracted with three 25 mL portions of ethyl acetate. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give 0.06 g of 4-[3-(4,4-dimethyl-chroman-7-yl)-oct-1-enyl]-benzoic acid as a colorless glassy oil. MS (EI): (M−−1): 391.

reactant | 4-[3-(4,4-dimethyl-chroman-7-yl)-oct-1-enyl]-benzoic acid methyl ester | 0.25 mmole, 0.1 g | COC(C1=CC=C(C=C1)C=CC(CCCCC)C1=CC=C2C(CCOC2=C1)(C)C)=O | C27H34O3
reactant | lithium hydroxide monohydrate | 0.1 g | O.[OH-].[Li+]
solvent | THF methanol | 25 mL | C1CCOC1.CO
solvent | water | 5 mL | O | H2O
product | 4-[3-(4,4-dimethyl-chroman-7-yl)-oct-1-enyl]-benzoic acid | 0.06 g | CC1(CCOC2=CC(=CC=C12)C(C=CC1=CC=C(C(=O)O)C=C1)CCCCC)C | C26H32O3
